US06649600B1
8-[4-(3-Hydroxy-propyl)-bicyclo[2.2.2]oct-1-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
To a solution of 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionic acid (417 mg, 1.0 mmol) in THF (25 ml), cooled to 0° C. with the aid of an ice bath, was added BH3 (1.0 M in THF, 3.0 mmol). The resulting mixture was allowed to reach ambient temperature and stirred for a period of 60 h. Following the addition of MeOH (10 ml), the mixture was concentrated in vacuo to afford a white solid that was dissolved in MeOH (20 ml), stirred at rt for 2 h and evaporated to dryness in vacuo. The resulting white solid was recrystallized from EtOAc to afford 345 mg (86%) of a white powder. MS: 403 (MH+).

reactant | 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionic acid | 1.0 mmol, 417 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=O)O)=O)CCC | C22H32N4O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | 8-[4-(3-Hydroxy-propyl)-bicyclo[2.2.2]oct-1-yl]-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 345 mg, 86% | OCCCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C22H34N4O3
